data/polar.json
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:19][N+:30]2([CH2:28][c:10]3[cH:7][c:25]4[cH:5][cH:4][cH:27][cH:12][c:22]4[o:16][c:9]3=[O:13])[CH2:20][CH2:2][N:29]1[CH2:3][CH2:21]2.[CH3:6][C:11](=[C:8]=[N-:14])[c:15]1[cH:17][cH:23][cH:26][cH:24][cH:18]1>>[CH2:1]1[CH2:19][N+:30]2([CH2:28][C:10]3=[C:9]([O-:13])[O:16][c:22]4[cH:12][cH:27][cH:4][cH:5][c:25]4[CH:7]3[C:11]([CH3:6])([C:8]#[N:14])[c:15]3[cH:17][cH:23][cH:26][cH:24][cH:18]3)[CH2:20][CH2:2][N:29]1[CH2:3][CH2:21]2", "epd": [["LP-/Pi+", [14], [8, 14]], ["Pi-/Sigma+", [11, 8], [11, 7]], ["Pi-/Pi+", [7, 10], [10, 9]], ["Pi-/LP+", [9, 13], [13]]]}
{"reaction_name": "Diazonium cyanation", "rsmi": "[C-:7]#[N:9].[c:1]1([N+:10]#[N:8])[cH:3][cH:5][cH:2][cH:6][cH:4]1>>[N:8]#[N:10].[c:1]1([C:7]#[N:9])[cH:3][cH:5][cH:2][cH:6][cH:4]1", "epd": [["LP-/Sigma+", [7], [1, 7]], ["Sigma-/LP+", [1, 10], [10]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:4]([CH:16]1[N+:24](=[CH:9][CH:47]=[CH:17][c:32]2[cH:12][cH:25][cH:8][cH:26][cH:13]2)[CH:23]([CH2:48][c:37]2[cH:51][cH:19][cH:29][cH:20][cH:52]2)[C:31](=[O:14])[N:38]1[CH3:30])([CH3:33])([CH3:34])[CH3:35].[cH:1]1[c:6]([CH3:36])[s:49][c:5]([B-:7]2([c:50]3[cH:39][c:10]([C:2]([F:41])([F:42])[F:43])[cH:18][c:11]([C:3]([F:44])([F:45])[F:46])[cH:40]3)[O:27][CH2:21][CH2:22][O:28]2)[cH:15]1>>[C:2]([c:10]1[cH:18][c:11]([C:3]([F:44])([F:45])[F:46])[cH:40][c:50]([B-:7]2=[O+:27][CH2:21][CH2:22][O:28]2)[cH:39]1)([F:41])([F:42])[F:43].[cH:1]1[c:6]([CH3:36])[s:49][c:5]([CH:17]([c:32]2[cH:12][cH:25][cH:8][cH:26][cH:13]2)[CH:47]=[CH:9][N:24]2[CH:16]([C:4]([CH3:33])([CH3:34])[CH3:35])[N:38]([CH3:30])[C:31](=[O:14])[CH:23]2[CH2:48][c:37]2[cH:51][cH:19][cH:29][cH:20][cH:52]2)[cH:15]1", "epd": [["LP-/Pi+", [27], [7, 27]], ["Sigma-/Sigma+", [5, 7], [5, 17]], ["Pi-/Pi+", [17, 47], [47, 9]], ["Pi-/LP+", [9, 24], [24]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2]([c:12]1[cH:4][n:11][c:15]2[c:20]([n+:10]([O-:9])[o:13][n:31]2)[cH:21]1)(=[O:24])[O-:28].[cH:1]1[cH:17][cH:22][c:16]([B-:3]2([CH2:19][CH:14]=[CH2:27])[O:29][C:25]([CH3:5])([CH3:6])[C:26]([CH3:7])([CH3:8])[O:30]2)[cH:23][cH:18]1>>[cH:1]1[cH:17][cH:22][c:16]([B-:3]2([CH2:19][CH+:14][CH2:27][CH:21]3[C:12](=[N+:2]([O-:24])[O-:28])[CH:4]=[N:11][c:15]4[c:20]3[n+:10]([O-:9])[o:13][n:31]4)[O:29][C:25]([CH3:5])([CH3:6])[C:26]([CH3:7])([CH3:8])[O:30]2)[cH:23][cH:18]1", "epd": [["Pi-/Sigma+", [27, 14], [27, 21]], ["Pi-/Pi+", [21, 12], [12, 2]], ["Pi-/LP+", [2, 24], [24]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[S:1]([c:2]1[cH:28][cH:16][cH:6][cH:17][cH:29]1)([O-:3])=[O:23].[S:4]([c:8]1[cH:19][cH:12][cH:10][cH:15][cH:22]1)([C:18]([S:5]([c:9]1[cH:20][cH:13][cH:11][cH:14][cH:21]1)(=[O:24])=[O:25])=[CH2:7])(=[O:26])=[O:27]>>[S+:1]([c:2]1[cH:28][cH:16][cH:6][cH:17][cH:29]1)([O-:3])([CH2:7][C-:18]([S:4]([c:8]1[cH:19][cH:12][cH:10][cH:15][cH:22]1)(=[O:26])=[O:27])[S:5]([c:9]1[cH:20][cH:13][cH:11][cH:14][cH:21]1)(=[O:24])=[O:25])=[O:23]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Pi-/LP+", [7, 18], [18]]]}
{"reaction_name": "Knoevenagel condensation", "rsmi": "[C:4](#[N:11])[C:13]([C:5]#[N:12])([H:14])[H:15].[O:1]=[CH:3][c:2]1[cH:9][cH:7][cH:6][cH:8][cH:10]1>>[O:1]([H:14])[H:15].[c:2]1([CH:3]=[C:13]([C:4]#[N:11])[C:5]#[N:12])[cH:9][cH:7][cH:6][cH:8][cH:10]1", "epd": [["Pi-/Sigma+", [1, 3], [1, 14]], ["Sigma-/LP+", [13, 14], [13]], ["LP-/Sigma+", [13], [3, 13]], ["Sigma-/Pi+", [13, 15], [3, 13]], ["Sigma-/LP+", [1, 3], [1]], ["LP-/Sigma+", [1], [1, 15]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]1([c:21]2[cH:31][cH:2][n:39][cH:3][cH:32]2)[CH2:17][CH2:38][CH2:4][CH:18]1[C:24]([c:22]1[cH:5][cH:13][cH:19][cH:14][cH:6]1)([c:23]1[cH:7][cH:15][cH:20][cH:16][cH:8]1)[F:37].[cH:9]1[c:25]([CH+:42][c:26]2[cH:10][c:29]([F:35])[cH:41][c:30]([F:36])[cH:11]2)[cH:12][c:27]([F:33])[cH:40][c:28]1[F:34]>>[N+:1]1(=[c:21]2[cH:31][cH:2][n:39]([CH:42]([c:25]3[cH:9][c:28]([F:34])[cH:40][c:27]([F:33])[cH:12]3)[c:26]3[cH:10][c:29]([F:35])[cH:41][c:30]([F:36])[cH:11]3)[cH:3][cH:32]2)[CH2:17][CH2:38][CH2:4][CH:18]1[C:24]([c:22]1[cH:5][cH:13][cH:19][cH:14][cH:6]1)([c:23]1[cH:7][cH:15][cH:20][cH:16][cH:8]1)[F:37]", "epd": [["Pi-/Pi+", [21, 32], [3, 32]], ["LP-/Pi+", [1], [1, 21]], ["Pi-/Sigma+", [3, 39], [39, 42]]]}
